US08012974B2
To a solution of racemic 3-methyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester in anhydrous DCM at 0° C., ethanolic-HCl was added slowly and the reaction mixture was allowed to stir at 25° C. for 3 h. TLC (hexanes/EtOAc 40% EtOAc) showed complete consumption of the starting material. The reaction mixture was evaporated to give racemic 3-methyl-piperidin-4-one hydrochloride which was used crude in the next reaction.

reactant | racemic 3-methyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)C | C11H19NO3
reactant | DCM | C(Cl)Cl | CH2Cl2
product | racemic 3-methyl-piperidin-4-one hydrochloride | Cl.CC1CNCCC1=O | InChI=1S/C6H11NO.ClH/c1-5-4-7-3-2-6(5)8;/h5,7H,2-4H2,1H3;1H
